US04352811
5,6-Dimethoxy-3-{1-[1,3-dihydro-2-oxo-2H-benzimidazole-1-yl-propyl]-4-piperidyl}-1,2-benzisoxazole
A stirred mixture of 4.40 g of 5,6-dimethoxy-3-(4-piperidyl-1,2-benzisoxazole, 3.35 g of 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazole-2-one, 3.56 g of sodium carbonate, 300 ml of 4-methyl-2-pentanone and 0.20 g of potassium iodide was stirred at reflux for 6.0 hrs and stirred overnight at ambient temperature. The reaction mixture was poured into water (300 ml) and extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to yield an oil. The oil was purified by high pressure liquid chromatography (Waters Prep 500; two silica gel columns) using 5% methanol in dichloromethane as the eluent. The free base was dissolved in ether and a saturated hydrogen bromide/ether solution was added dropwise to precipitate the hydrobromide salt. The salt was filtered, washed with ether and recrystallized from toluene/ether to yield 2.50 g (28.1%) of the product, mp 147°-149°.

reactant | 4-piperidyl-1,2-benzisoxazole | N1CCC(CC1)C1=NOC2=C1C=CC=C2 | C12H14N2O
reactant | 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazole-2-one | 3.35 g | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | sodium carbonate | 3.56 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.20 g | [I-].[K+]
reactant | 4-methyl-2-pentanone | 300 ml | CC(CC(C)=O)C | C6H12O
solvent | water | 300 ml | O | H2O
product | 5,6-Dimethoxy-3-{1-[1,3-dihydro-2-oxo-2H-benzimidazole-1-yl-propyl]-4-piperidyl}-1,2-benzisoxazole | 2.50 g, 28.1% | COC=1C(=CC2=C(C(=NO2)C2CCN(CC2)CCCN2C(NC3=C2C=CC=C3)=O)C1)OC | C24H28N4O4
